US04396627
3. 2-Acetoxy-1-(4-acetylphenyl)propane
2-Acetoxy-1-phenylpropane (5.2 g) in acetyl chloride (20 ml) was added dropwise to a stirred solution of aluminium chloride (16.0 g) and acetyl chloride (4.2 ml) in dichloroethane (150 ml). The mixture was stirred at ambient temperature for 72 hours, poured on to ice (500 g) and the organic phase was separated. The organic phase and washings were washed with sodium bicarbonate solution, dried (MgSO4) and evaporated to an oil. Chromatography of the oil on alumina, eluting with ether/petrol gave the title compound (4.5 g).

reactant | 2-Acetoxy-1-phenylpropane | 5.2 g | C(C)(=O)OC(CC1=CC=CC=C1)C | C11H14O2
reactant | aluminium chloride | 16.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 20 ml | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 4.2 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
product | 2-Acetoxy-1-(4-acetylphenyl)propane | 4.5 g | C(C)(=O)OC(CC1=CC=C(C=C1)C(C)=O)C | C13H16O3
